US05962682
0.35 g of methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate was dissolved in pyridine (10 ml), treated dropwise while cooling with ice with a solution of 0.312 g of 4-tert.butyl-benzenesulphonyl chloride in toluene (3 ml) and subsequently stirred at RT for 24 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate, the organic phase was washed with 2M KHCO3 solution and dried over magnesium sulphate. After removing the solvent there was obtained the desired methyl 3-(4-tert-butyl-benzenesulphonylamino)-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a solid.

reactant | methyl 3-amino-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 0.35 g | NC=1C=C(C(=O)OC)C=C(C1OC1=CC(=CC=C1)OC)OCCOC1OCCCC1 | C22H27NO7
reactant | 4-tert.butyl-benzenesulphonyl chloride | 0.312 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-tert-butyl-benzenesulphonylamino)-4-(3-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)OC)C=C(C1OC1=CC(=CC=C1)OC)OCCOC1OCCCC1 | C32H39NO9S
